US06982348B2
To a solution of lithium aluminum hydride (1.02 g, 26.8 mmol) in tetrahydrofuran (100 ml) was added a solution of ethyl 4-methyl-3-((1,1,2,2-tetrafluoroethyl)oxy)benzoate (5.0 g, 17.8 mmol) in tetrahydrofuran (20 ml) under ice-cooling. After the reaction solution was stirred at room temperature for 30 min., 1N aqueous sodium hydroxide solution (20 ml) was added, and the mixture was filtered with celite. The filtrate was concentrated and water was added. The mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give (4-methyl-3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methanol (4.45 g, 100%) as a colorless oil.

reactant | lithium aluminum hydride | 26.8 mmol, 1.02 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-methyl-3-((1,1,2,2-tetrafluoroethyl)oxy)benzoate | 17.8 mmol, 5.0 g | CC1=C(C=C(C(=O)OCC)C=C1)OC(C(F)F)(F)F | C12H12F4O3
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4-methyl-3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methanol | 4.45 g, 100% | CC1=C(C=C(C=C1)CO)OC(C(F)F)(F)F | C10H10F4O2
